US06878706B1
2-Isobutylamino-1 -morpholin-4-yl-ethanone (1.43 g, 7.13 mmol) was dissolved in 15 mL of THF. To this solution at −78° C. was added a solution of bromoacetyl bromide (1.24 mL, 14.3 mmol) in 15 mL of THF. The mixture was warmed to room temperature and stirred for 2 h. Solvent was removed in vacuo. The residue was dissolved in 30 mL of methylene chloride, washed with saturated sodium bicarbonate, and brine, then dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by silica gel flash chromatography eluting with 2% MeOH in methylene chloride to give 2-bromo-N-isobutyl-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide (1.37 g, 60%) as a clear oil.

reactant | 2-Isobutylamino-1 -morpholin-4-yl-ethanone | 7.13 mmol, 1.43 g | C(C(C)C)NCC(=O)N1CCOCC1 | C10H20N2O2
reactant | bromoacetyl bromide | 14.3 mmol, 1.24 mL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-bromo-N-isobutyl-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide | 1.37 g, 60% | BrCC(=O)N(CC(=O)N1CCOCC1)CC(C)C | C12H21BrN2O3
